US08304557B2
N-[7-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide
A mixture of N-[7-(3-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (125 mg, 0.368 mmol), reduced iron (500 mg), concentrated hydrochloric acid (500 μL) and ethanol (5 mL) was stirred under refluxing conditions for 1 hr. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was collected by filtration and washed with ethyl acetate to give the title compound (40.0 mg, 32%) as a white solid.

reactant | N-[7-(3-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.368 mmol, 125 mg | [N+](=O)([O-])C=1C=C(OC2=CC=3N(C=C2)N=C(N3)NC(=O)C3CC3)C=CC1 | C16H13N5O4
reactant | hydrochloric acid | 500 μL | Cl | ClH
reactant | ethanol | 5 mL | C(C)O | C2H6O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[7-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 40.0 mg, 32% | NC=1C=C(OC2=CC=3N(C=C2)N=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
